US08008250B2
d) (R)—N-Allyl-2-methyl-succinamic acid
To a solution of 1.98 g (8.7 mmol) of (R)—N-allyl-2-methyl-succinamic acid tert-butyl ester in 30 ml of DCM are added 3.57 ml (21.8 mmol) of triethylsilane and 8.76 ml (113 mmol) of TFA, and the mixture is stirred for 3 h and then concentrated by co-evaporation with toluene (3×30 ml) to give the solid product.

reactant | (R)—N-allyl-2-methyl-succinamic acid tert-butyl ester | 8.7 mmol, 1.98 g | C(C)(C)(C)OC([C@@H](CC(=O)NCC=C)C)=O | C12H21NO3
reactant | triethylsilane | 21.8 mmol, 3.57 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 113 mmol, 8.76 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | (R)—N-Allyl-2-methyl-succinamic acid | C(C=C)NC(C[C@H](C(=O)O)C)=O | C8H13NO3
